US08431569B2
Step 11. 4-{[tert-Butyl(dimethyl)silyl]oxy}-3-fluorocyclohexanamine
To a stirred solution [(4-azido-2-fluorocyclohexyl)oxy](tert-butyl)dimethylsilane (1.0 g, 3.66 mmol) in MeOH (15 mL) was added Pd/C in MeOH. The flask was evacuated and filled with hydrogen several times, and left to stir overnight under hydrogen atmosphere. The mixture was diluted with DCM, filtered through a pad of Celite, and concentrated to afford the title compound.

reactant | [(4-azido-2-fluorocyclohexyl)oxy](tert-butyl)dimethylsilane | 3.66 mmol, 1.0 g | N(=[N+]=[N-])C1CC(C(CC1)O[Si](C)(C)C(C)(C)C)F | C12H24FN3OSi
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-{[tert-Butyl(dimethyl)silyl]oxy}-3-fluorocyclohexanamine | [Si](C)(C)(C(C)(C)C)OC1C(CC(CC1)N)F | C12H26FNOSi
